US08431575B2
To a stirred solution of 1-cyclobutyl-2-(4-cyclohexyloxy-phenyl)-ethanone (3.60 mmol, 0.98 g) and triethylamine (3.60 mmol, 0.51 mL) in THF (2.0 mL) was added a solution of ethyl glyoxylate (50% in toluene, 18.0 mmol, 3.82 mL) and continued stirring for 12 h at room temperature. After removal of volatiles under reduced pressure, the crude product was pre-absorbed onto 10 g SiO2 followed by purification on a 24 g SiO2 cartridge using a 0-30% ethyl acetate/hexanes gradient to give 4-cyclobutyl-3-(4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-butyric acid ethyl ester (0.42 g).

reactant | 1-cyclobutyl-2-(4-cyclohexyloxy-phenyl)-ethanone | 3.60 mmol, 0.98 g | C1(CCC1)C(CC1=CC=C(C=C1)OC1CCCCC1)=O | C18H24O2
reactant | triethylamine | 3.60 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl glyoxylate | 18.0 mmol, 3.82 mL | C(C=O)(=O)OCC | C4H6O3
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-cyclobutyl-3-(4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-butyric acid ethyl ester | 0.42 g | C(C)OC(C(C(C(=O)C1CCC1)C1=CC=C(C=C1)OC1CCCCC1)O)=O | C22H30O5
